US04608380
3-[3-(Piperidinomethyl)phenoxy]propylamine (6.21 g), 2-chloro-4-nitropyridine-N-oxide (4.36 g) and triethylamine (6.32 g) were stirred, in ethanol (30 ml), under reflux for 31/2 hours. The reaction mixture was cooled gradually to 0° C. to yield 2-[3-[3-(piperidinomethyl)phenoxy]propylamino]-4-nitropyridine-N-oxide (4.23 g), m.p. 90°-90.5° C.

reactant | 3-[3-(Piperidinomethyl)phenoxy]propylamine | 6.21 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | 2-chloro-4-nitropyridine-N-oxide | 4.36 g | ClC1=[N+](C=CC(=C1)[N+](=O)[O-])[O-] | C5H3ClN2O3
reactant | triethylamine | 6.32 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-[3-[3-(piperidinomethyl)phenoxy]propylamino]-4-nitropyridine-N-oxide | 4.23 g | N1(CCCCC1)CC=1C=C(OCCCNC2=[N+](C=CC(=C2)[N+](=O)[O-])[O-])C=CC1 | C20H26N4O4
